US07199154B2
Step 2: 6-bromohexyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate
To a solution of 24 g of 6-bromohexyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate in 200 mL of acetonitrile was added 9 mL of PyrHF and the mixture was stirred at 25° C. for 1.5 h. The reaction mixture was diluted with 1 L of toluene, loaded on silica gel and washed with EtOAc. The solvent was evaporated to afford 16.8 g of the titled compound. The crude compound was used directly for the next step.

reactant | 6-bromohexyl (2Z)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 24 g | C(OCCCCCCBr)(OC\C(=C(/CO[Si](C)(C)C(C)(C)C)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C30H43BrO6SSi
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 6-bromohexyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 16.8 g | C(OCCCCCCBr)(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C24H29BrO6S
